US04782064
6-Chloro-2-[4-(1H-imidazol-1-yl)butyl]-1H-benz[de]isoquinoline-1,3(2H)-dione monohydrochloride
A mixture of 3.49 g of 4-chloro-1,8-naphthalic anhydride, 50 ml of ethanol and 2.1 g of 1H-imidazol-1butanamine as stirred at room temperature for 5 hours and concentrated. The residue was washed on to a funnel with a little ethanol, washed with ether and dried in vacuo. The solid material, 3.72 g, was mixed with 15 ml of acetic anhydride and 5 ml of acetic acid and heated at 110°-120° C. in an oil bath for 6 hours. The reaction mixture was concentrated and shaken with 20 ml of 1N sodium hydroxide and 150 ml of methylene chloride and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated. The residue was recrystallized from ethyl acetate to obtain the desired product, mp 138°-140° C.

reactant | 4-chloro-1,8-naphthalic anhydride | 3.49 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Cl | C12H5ClO3
reactant | 1H-imidazol-1butanamine | 2.1 g | N1(C=NC=C1)CCCCN | C7H13N3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-Chloro-2-[4-(1H-imidazol-1-yl)butyl]-1H-benz[de]isoquinoline-1,3(2H)-dione monohydrochloride | Cl.ClC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)CCCCN2C=NC=C2)=O | InChI=1S/C19H16ClN3O2.ClH/c20-16-7-6-15-17-13(16)4-3-5-14(17)18(24)23(19(15)25)10-2-1-9-22-11-8-21-12-22;/h3-8,11-12H,1-2,9-10H2;1H
